US06887889B2
To a flask containing sodium hydride (0.07 g, 2.9 mmol, 5 eq.) under Ar at 0° C. was added a solution of 4-(4-iodo-phenyl)-4-[(2,2,2-trifluoro-acetylamino)-methyl]-piperidine-1-carboxylic acid tert-butyl ester (0.298 g, 0.58 mmol) in DMF (5 mL). The resulting mixture was warmed to room temperature and stirred for 2 h, heated to 35° C. for 0.5 h and CH3I (0.36 mL, 5.8 mmol, 10 eq.) was added. The mixture heated at 35° C. for a further 2 h. The reaction was diluted with EtOAc (25 mL) and washed with saturated NaHCO3 (25 mL) and saturated brine (25 mL). The combined organic extracts were dried over anhydrous Na2SO4, filtered and concentrated by rotary evaporation. The crude product was purified by flash column chromatography by eluting with 30% EtOAc/hexanes to give 4-(4-iodo-phenyl)-4-{[methyl-(2,2,2-trifluoro-acetyl)-amino]-methyl}-piperidine-1-carboxylic acid tert-butyl ester (0.022 g, 0.42 mmol, 72%). 1H NMR (CDCl3): δ 7.83 (d, 2H), 7.20 (d, 2H), 3.93 (m, 2H), 3.78 (m, 1H), 3.53 (m, 1H), 3.07 (m, 2H), 2.60 (m, 3H), 2.24 (m, 2H), 1.93 (m, 2H), 1.54 (s, 9H).

reactant | sodium hydride | 2.9 mmol, 0.07 g, 5 eq. | [H-].[Na+]
reactant | 4-(4-iodo-phenyl)-4-[(2,2,2-trifluoro-acetylamino)-methyl]-piperidine-1-carboxylic acid tert-butyl ester | 0.58 mmol, 0.298 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(CNC(C(F)(F)F)=O)C1=CC=C(C=C1)I | C19H24F3IN2O3
reactant | CH3I | 5.8 mmol, 0.36 mL, 10 eq. | CI | CH3I
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 25 mL | CCOC(=O)C | C4H8O2
product | 4-(4-iodo-phenyl)-4-{[methyl-(2,2,2-trifluoro-acetyl)-amino]-methyl}-piperidine-1-carboxylic acid tert-butyl ester | 0.42 mmol, 0.022 g, 72% | C(C)(C)(C)OC(=O)N1CCC(CC1)(CN(C(C(F)(F)F)=O)C)C1=CC=C(C=C1)I | C20H26F3IN2O3
